US06414149B1
Step C: (R)-1-{4-[4-(3-Chloro-benzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethyl butyrate
To a solution of 4-(3-chlorobenzylidene)-piperidine hydrochloride (prepared according to the method of Example 176, Step B, 0.46 g, 2.0 mmol) and triethylamine (0.61 g, 6.0 mmol) in dichloromethane (10 mL) was added (R)-1-(4-chloropyrimidin-2-yl)-ethyl acetate (prepared according to the method of Preparation Five, 0.54 g, 2.2 mmol) and stirred at ambient temperature for 12 h. The mixture was washed successively with saturated aqueous sodium bicarbonate and water, and the organic layer was dried over sodium sulfate and filtered. The filtrate was concentrated to obtain a crude product which was purified by flash chromatography (95:5 dichloromethane:methanol) to give the title compound of Example 176, Step C as a viscous oil, 0.64 g (80%). 1H NMR (CDCl3, 300 MHz) δ0.95 (d, 6H), 1.51 (d, 3H), 1.68 (m, 2H) 2.35 (m, 2H), 2.47-2.64 (m, 4H), 3.67-3.75 (m, 4H), 5.68 (q, 1H), 6.36 (s, 1H), 6.40 (d, 1H), 6.98 (m, 1H), 7.12-7.28 (m, 3H), 8.18 (m, 1H); MS (CI) 400 (MH+).

reactant | 4-(3-chlorobenzylidene)-piperidine hydrochloride | Cl.ClC=1C=C(C=C2CCNCC2)C=CC1
reactant | triethylamine | 6.0 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | (R)-1-(4-chloropyrimidin-2-yl)-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C8H9ClN2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-1-{4-[4-(3-Chloro-benzylidene)-piperidin-1-yl]-pyrimidin-2-yl}-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCC(CC1)=CC1=CC(=CC=C1)Cl | C22H26ClN3O2
